US08476434B2
A solution of 4-fluoro-N-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-3-(trifluoromethyl)benzamide (0.10 g, 0.22 mmol) and N1,N1,N2-trimethylethane-1,2-diamine (0.045 g, 0.44 mmol) in DMF (2 mL) was heated to 100 deg. C. for 48 h. Additional N1,N1,N2-trimethylethane-1,2-diamine (0.045 g, 0.44 mmol) was added, and the reaction heated for 6 h. Additional N1,N1,N2-trimethylethane-1,2-diamine (0.045 g, 0.44 mmol) was added, and the reaction heated for 48 h. The reaction was cooled to ambient temperature, was diluted with ethyl acetate, and washed with saturated aqueous sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give a solid. Purification by reverse-phase HPLC using acetonitrile/water/TFA as eluent gave 4-((2-(dimethylamino)ethyl)(methyl)amino)-N-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-3-(trifluoromethyl)benzamide as a white solid. MS m/z=580 [M+1]+. Calc'd for C30H32F3N7O2: 579.62.

reactant | 4-fluoro-N-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-3-(trifluoromethyl)benzamide | 0.22 mmol, 0.10 g | FC1=C(C=C(C(=O)NC2=CC(=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC)C)C=C1)C(F)(F)F | C25H19F4N5O2
reactant | N1,N1,N2-trimethylethane-1,2-diamine | 0.44 mmol, 0.045 g | CN(CCNC)C | C5H14N2
reactant | N1,N1,N2-trimethylethane-1,2-diamine | 0.44 mmol, 0.045 g | CN(CCNC)C | C5H14N2
reactant | N1,N1,N2-trimethylethane-1,2-diamine | 0.44 mmol, 0.045 g | CN(CCNC)C | C5H14N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((2-(dimethylamino)ethyl)(methyl)amino)-N-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-3-(trifluoromethyl)benzamide | CN(CCN(C1=C(C=C(C(=O)NC2=CC(=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC)C)C=C1)C(F)(F)F)C)C | C30H32F3N7O2
